US05359066
To ethyl acetate solution (55 ml) of 4N hydrochloric acid, was added methyl 1-(N-tert-butoxycarbonyl-N-methylamino)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (10.85 g) with ice-cooling, and the mixture was stirred for one hour at the same temperature and then for 14 hours at room temperature. The mixture was concentrated under reduced pressure to obtain a solid. The solid was poured into a mixture comprising methylene chloride (150 ml) and water (150 ml). The suspension was neutralized with sodium hydrogencarbonate. The precipitates were taken out by filtration, washed with water and dried with phosphorus pentaoxide to obtain a solid. The solid was recrystallized from a liquid mixture of methylene chloride and diisopropyl ether to obtain methyl 6,7,8-trifluoro-1-methylamino-1,4-dihydro-4-oxoquinoline-3-carboxylate (4.05 g).

reactant | ethyl acetate | 55 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 4N | Cl | ClH
reactant | methyl 1-(N-tert-butoxycarbonyl-N-methylamino)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 10.85 g | C(C)(C)(C)OC(=O)N(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OC | C17H17F3N2O5
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | 150 ml | O | H2O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | methyl 6,7,8-trifluoro-1-methylamino-1,4-dihydro-4-oxoquinoline-3-carboxylate | 4.05 g | FC=1C=C2C(C(=CN(C2=C(C1F)F)NC)C(=O)OC)=O | C12H9F3N2O3
